US08859566B2
A mixture of 1-Propyl-8-[1-(3-trifluoromethyl-benzyl)-1H-pyrazol-4-yl]-3,7-dihydro-purine-2,6-dione (100 mg, 0.24 mmol), Sodium chloro difluoroacetate (47 mg, 0.31 mmol), Cs2CO3 (117 mg, 0.36 mmol) and DMF (2 ml) were stirred at 60° C. for 18 hours. Reaction mixture was cooled and diluted with water (10 ml), solid materials were filtered off and it was purified by preparative HPLC to obtain 2-Difluoromethoxy-1-propyl-8-[1-(3-trifluoromethyl-benzyl)-1H-pyrazol-4-yl]-1,7-dihydro-purin-6-one as off white solid (11 mg, 10%) and

reactant | 1-Propyl-8-[1-(3-trifluoromethyl-benzyl)-1H-pyrazol-4-yl]-3,7-dihydro-purine-2,6-dione | 0.24 mmol, 100 mg | C(CC)N1C(NC=2N=C(NC2C1=O)C=1C=NN(C1)CC1=CC(=CC=C1)C(F)(F)F)=O | C19H17F3N6O2
reactant | Sodium chloro difluoroacetate | 0.31 mmol, 47 mg | FC(C(=O)OCl)F.[Na]
reactant | Cs2CO3 | 0.36 mmol, 117 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | 10 ml | O | H2O
product | 2-Difluoromethoxy-1-propyl-8-[1-(3-trifluoromethyl-benzyl)-1H-pyrazol-4-yl]-1,7-dihydro-purin-6-one | FC(OC=1N(C(C=2NC(=NC2N1)C=1C=NN(C1)CC1=CC(=CC=C1)C(F)(F)F)=O)CCC)F | C20H17F5N6O2
